US08076356B2
3-tert-Butyl-1-(3-{[tert-butyl(dimethyl)silyl]oxy}-4-methylphenyl)-1H-pyrazol-5-amine
The title compound was prepared from 5-[5-amino-3-(1,1-dimethylethyl)-1H-pyrazol-1-yl]-2-methylphenol hydrochloride (WO 03/005999, p81-p82) and tert-butyldimethylsilyl chloride, using the same method as that described for preparation 99, as a solid in 86% yield.

reactant | 5-[5-amino-3-(1,1-dimethylethyl)-1H-pyrazol-1-yl]-2-methylphenol hydrochloride | Cl.NC1=CC(=NN1C=1C=CC(=C(C1)O)C)C(C)(C)C
reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 3-tert-Butyl-1-(3-{[tert-butyl(dimethyl)silyl]oxy}-4-methylphenyl)-1H-pyrazol-5-amine | 86% yield | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC(=C(C=C1)C)O[Si](C)(C)C(C)(C)C | C20H33N3OSi
